US07186861B2
Synthesis of 5-isopropyl-2,4-dihydro-3H-pyrazol-3-one
70 g (1.26 mol) of hydrazine hydrate were added dropwise at 10 to 30° C. to a solution of 100 g (0.62 mol) of ethyl isobutyrylacetate in 60 ml of ethanol. After the exothermic reaction had subsided, the mixture was stirred at 20 to 25° C. for a further 14 hours approximately and was then cooled to approximately −10° C. 52 g of the title compound were isolated by filtration.

reactant | hydrazine hydrate | 1.26 mol, 70 g | O.NN
reactant | ethyl isobutyrylacetate | 0.62 mol, 100 g | C(C(C)C)(=O)CC(=O)OCC | C8H14O3
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 5-isopropyl-2,4-dihydro-3H-pyrazol-3-one | 52 g | C(C)(C)C=1CC(NN1)=O | C6H10N2O
